US08193164B2
(1R,2S,3R,5S)-3-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-hydroxymethyl-[1,2,3]triazol-2-yl)-cyclopentane-1,2-diol is prepared analogously to N-{(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide by replacing N-[(1S,2R,3S,4R)-4-(2,6-dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide, with (1R,2S,3R,5S)-3-(2,6-dichloro-purin-9-yl)-5-(4-hydroxymethyl-[1,2,3]triazol-2-yl)-cyclopentane-1,2-diol (Intermediate FC).

reactant | N-{(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29ClN6O3
reactant | N-[(1S,2R,3S,4R)-4-(2,6-dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)Cl | C13H15Cl2N5O3
reactant | (1R,2S,3R,5S)-3-(2,6-dichloro-purin-9-yl)-5-(4-hydroxymethyl-[1,2,3]triazol-2-yl)-cyclopentane-1,2-diol | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=N1)CO)O)O)Cl | C13H13Cl2N7O3
product | (1R,2S,3R,5S)-3-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-hydroxymethyl-[1,2,3]triazol-2-yl)-cyclopentane-1,2-diol | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=N1)CO)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H27ClN8O3
